* C:\Users\Kreidos\Desktop\MATLABCircuitOptimizer-Loop_stable\Buck.asc
M1 IN N005 SW SW BCDMOSHS l=1u w=$w1
M2 SW N010 0 0 BCDMOSLS l=1u w=$w2
XU1 vcc N001 N004 N006 N007 0 N009 0 0 N010 vcc vcc SW N005 N002 IN LTC3703
Vcc vcc 0 10
VIN IN 0 48
L SW OUT 10u Rser=3m Cpar=1p
R1 N007 0 10K
R2 N001 0 25K
R8 N004 N003 100K
C5 N003 N006 2200p
R9 OUT N006 113K
R10 OUT N008 100
C6 N008 N006 2200p
C7 N009 0 .001u
C8 N002 SW .1u
C9 N004 N006 1000p
D3 vcc N002 1N5817
RLOAD OUT 0 2.4
R3 N006 0 8.06K
C2 OUT 0 270u x2 Rser=10m
.model D D
.lib C:\Users\Kreidos\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Kreidos\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 2m 1.9m startup
*.option cshunt=1e-15 reltol=0.003 abstol=1e-10 gmin=1e-10
.model BCDMOSHS NMOS(Kp=75 Vto=2 Rg=1.5 Rd=$Rd_HS Cgso=1000e-12 Cgdo=1200e-12)
.model BCDMOSLS NMOS(Kp=75 Vto=2 Rg=1.5 Rd=$Rd_LS Cgso=1000e-12 Cgdo=1200e-12)
*.model BCDMOSHS NMOS(Kp=75 Vto=2 Rg=1.5 Rd=1.25m Cgso=1000e-12 Cgdo=1200e-12)
*.model BCDMOSLS NMOS(Kp=75 Vto=2 Rg=1.5 Rd=1.775m Cgso=1000e-12 Cgdo=1200e-12)
.meas tran Pin AVG (-V(IN)*I(VIN)-V(vcc)*I(Vcc))  from 0 to 100u
.meas tran Pout AVG (V(OUT)*I(RLOAD))  from 0 to 100u
.meas Eff param Pout/Pin
.lib LTC3703.sub
.backanno
.end
